US08283310B2
To a solution of (1R,2R)-1-(tert-butoxycarbonylamino)-2-(difluoromethyl)cyclopropanecarboxylic acid (100 mg, 0.398 mmol) in Tetrahydrofuran (4 mL) was added CDT (84 mg, 0.517 mmol) and the formed solution was stirred at r.t. for 3 h. 1-(hept-6-enyl)cyclopropane-1-sulfonamide (104 mg, 0.478 mmol) and DBU (0.120 mL, 0.796 mmol) were added and the reaction continued at r.t. overnight. The reaction was diluted with EtOAc. Washed with 5% citric acid, brine, dried over MgSO4, filtered and concentrated. The residue was purified by Biotage column, eluted with gradient 5%˜70% EtOAc-Hexane to afford the desire produce tert-butyl (1R,2R)-2-(difluoromethyl)-1-(1-(hept-6-enyl)cyclopropylsulfonylcarbamoyl)cyclopropylcarbamate (45 mg, 0.100 mmol, 25.09% yield). 1H NMR (400 MHz, CHLOROFORM-D) ppm 0.95 (s, 2 H) 1.28-1.36 (m, 2 H) 1.36-1.47 (m, 6 H) 1.52 (s, 9 H) 1.58-1.67 (m, 2 H) 1.72 (d, J=10.54 Hz, 1 H) 1.78-1.95 (m, 2 H) 1.97-2.12 (m, 3 H) 4.88-5.05 (m, 2 H) 5.23 (b, NH) 5.65-5.92 (m, 2 H) 9.20 (b, NH).

reactant | (1R,2R)-1-(tert-butoxycarbonylamino)-2-(difluoromethyl)cyclopropanecarboxylic acid | 0.398 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@]1([C@@H](C1)C(F)F)C(=O)O | C10H15F2NO4
reactant | 1-(hept-6-enyl)cyclopropane-1-sulfonamide | 0.478 mmol, 104 mg | C(CCCCC=C)C1(CC1)S(=O)(=O)N | C10H19NO2S
reactant | DBU | 0.796 mmol, 0.120 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | Tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (1R,2R)-2-(difluoromethyl)-1-(1-(hept-6-enyl)cyclopropylsulfonylcarbamoyl)cyclopropylcarbamate | 0.100 mmol, 45 mg, 25.09% yield | FC([C@H]1[C@](C1)(C(NS(=O)(=O)C1(CC1)CCCCCC=C)=O)NC(OC(C)(C)C)=O)F | C20H32F2N2O5S
